US05977152
(2E,4E)-5-[4-(2,2,3,3-Tetrafluoropropoxy)phenyl]-2,4-pentadien-1-ol
Ethyl (2E,4E)-5-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-2,4-pentadienoate was treated with diisobutyl aluminum hydride in the same manner as in Reference example 21 to obtain the title compound having a melting point of 95 to 97° C. in a yield of 95%.

reactant | Ethyl (2E,4E)-5-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-2,4-pentadienoate | FC(COC1=CC=C(C=C1)/C=C/C=C/C(=O)OCC)(C(F)F)F | C16H16F4O3
reactant | diisobutyl aluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
product | (2E,4E)-5-[4-(2,2,3,3-Tetrafluoropropoxy)phenyl]-2,4-pentadien-1-ol | yield of 95% | FC(COC1=CC=C(C=C1)/C=C/C=C/CO)(C(F)F)F | C14H14F4O2
